US05519032
tert-Butyl[2-(thieno[2,3- b]pyridin-3-ylamino)-2-oxoethyl]carbamate
1,3-Dicyclohexylcarbodiimide (11 g) was added with stirring to a solution of 3-aminothieno[2,3-b]pyridine (8 g) and N-(tert-butoxycarbonyl)glycine (10 g) in 200 mL of dichloromethane. After one hour the reaction mixture was filtered to remove the separated 1,3-dicyclohexylurea and evaporated to an oil. Crystallization from ethyl ether afforded 14 g of a solid, m.p. 190°-192° C. Recrystallization of 3 g from acetonitrile afforded 2.4 g of crystals, m.p. 192°-194° C. Final recrystallization from acetonitrile afforded 2.0 g of crystals, m.p. 194°-196° C.

reactant | 1,3-Dicyclohexylcarbodiimide | 11 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-aminothieno[2,3-b]pyridine | 8 g | NC1=CSC2=NC=CC=C21 | C7H6N2S
reactant | N-(tert-butoxycarbonyl)glycine | 10 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | tert-Butyl[2-(thieno[2,3- b]pyridin-3-ylamino)-2-oxoethyl]carbamate | 14 g | C(C)(C)(C)OC(NCC(=O)NC1=CSC2=NC=CC=C21)=O | C14H17N3O3S
